US07964608B2
1-Butyl-7-methoxy-3-m-tolyl-1H-pyrimido[5,4-c]quinoline-2,4-dione (17 mg) was prepared from 4-butylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 1-isocyanato-3-methyl-benzene (0.5 mmol) following general procedure C. LCMS: m/z 390 [M+1]+.

reactant | 4-butylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCCCC)OC | C17H22N2O3
reactant | 1-isocyanato-3-methyl-benzene | 0.5 mmol | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
product | 1-Butyl-7-methoxy-3-m-tolyl-1H-pyrimido[5,4-c]quinoline-2,4-dione | 17 mg | C(CCC)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C=2C=C(C=CC2)C)=O | C23H23N3O3
